US07696240B2
2. To a solution of 3-(naphthalene-1-carbonyl)-1H-indole-2-carboxylic acid ethyl ester (0.81 g) in trifluoroacetic acid (3.6 ml) was added triethylsilane (1.5 ml) and stirring was continued at 22° C. for 21 h. The suspension was filtered, the residue washed with n-heptane and dried to give 3-naphthalen-1-ylmethyl-1H-indole-2-carboxylic acid ethyl ester as a white solid. MS: 328.1 ([M−H]−).

reactant | 3-(naphthalene-1-carbonyl)-1H-indole-2-carboxylic acid ethyl ester | 0.81 g | C(C)OC(=O)C=1NC2=CC=CC=C2C1C(=O)C1=CC=CC2=CC=CC=C12 | C22H17NO3
reactant | triethylsilane | 1.5 ml | C(C)[SiH](CC)CC | C6H16Si
solvent | trifluoroacetic acid | 3.6 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 3-naphthalen-1-ylmethyl-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC2=CC=CC=C2C1CC1=CC=CC2=CC=CC=C12 | C22H19NO2
